### PR TITLE
Monads integration

### PR DESCRIPTION
**Pull request by dmitromikh**

### CODE REVIEW

**Comment by anton-trunov** [comment]
CI is failing because you are missing the monae dependency in the opam file.

File: monads.v [hunk 1]
```diff
@@ -0,0 +1,28 @@
+From mathcomp Require Import all_ssreflect.
```
Comment (anton-trunov) [inline monads.v:1]: Let's be more precise in terms of what we actually import. It looks like you need almost nothing for this module.

Comment (dmitromikh) [reply monads.v]: Yeah, we only need ssrfun here.

File: coq-event-struct.opam [hunk 2]
```diff
@@ -23,6 +23,7 @@ depends: [
   "coq-mathcomp-ssreflect" {(>= "1.11" & < "1.13~") | (= "dev")}
   "coq-equations"
   "coq-relation-algebra" {(>= "1.7.4")}
+  "coq-monae"
```
[the remark this answers is not in the document]
Comment (anton-trunov) [reply coq-event-struct.opam:26]: Yes, I too think we should.

**Comment by eupp** [comment]
ping @dmitromikh

File: monads.v [hunk 3]
```diff
@@ -0,0 +1,22 @@
...
+
+Module MonadMorphism.
+
+Record mixin_of (M N : monad) (η : M ~> N) := Mixin {
+  _ : forall A, η A \o Ret = Ret;
+  _ : forall a b c (f : a -> M b) (g : b -> M c),
+        η c \o (f >=> g) =  (η b \o f) >=> (η c \o g)
+}.
+Structure type (M N : monad) (η : M ~> N) := Pack
+  { cpmm : M ~> N ; class : mixin_of M _ cpmm }.
```
[the remark this answers is not in the document]
Comment (dmitromikh) [reply monads.v:15]: As I understood, `hierarchy.v` uses `cpnt` notation for the components of a natural transformation, so I decided to use `cpmm` for the components of a monad morphism.

**Comment by eupp** [comment]
Couldn't you please rollback these two commits
https://github.com/volodeyka/event-struct/pull/70/commits/9a3354018eb35b68c93b704fb8a9b41c665d5cb6
https://github.com/volodeyka/event-struct/pull/70/commits/49e7e6e89f0a016e2c919a3d8709d4549f637929

Let's first merge the basic monae integration and monad morphisms, and then start to generalize `relations.v` later in a separate PR, because most likely we'll have some points to discuss there. 
Another problem is that currently you're branch is lagging behind master, and I've pushed some changes to `relations.v` recently. So let's first merge a part related to monads, and then start to rework `relation.v` w.r.t. monads.

**Comment by eupp** [comment]
For reverting the particular commits, see e.g. https://www.git-tower.com/learn/git/faq/undo-revert-old-commit/
You can also first create another branch locally, to have a backup of your work WITH these commits.

File: monad.v [hunk 4]
```diff
@@ -0,0 +1,99 @@
...
+Lemma ret_morph (M N : monad) (η : M ≈> N) :
+  forall a, η a \o Ret = Ret.
+Proof. case: η => cpmm; by case. Qed.
+
+Lemma join_morph (M N : monad) (η: M ≈> N) :
+  forall a (m : M (M a)),
+    η a (Join m) = Join (η (N a) ((M # (η a)) m)).
+Proof. case: η => cpmm; by case. Qed.
+
+Lemma bind_morph (T : eqType) (M N : monad) (η : M ≈> N) (m : M T) (k : T -> M T) :
```
Comment (anton-trunov) [inline monad.v:45]: This looks like it should work for any type:
```suggestion
Lemma bind_morph (T : Type) (M N : monad) (η : M ≈> N) (m : M T) (k : T -> M T) :
```

File: monad.v [hunk 5]
```diff
@@ -0,0 +1,99 @@
...
+Module Import Syntax.
+Notation "f ≈> g" := (monmorph f g) (at level 51) : monae_scope.
+End Syntax. 
+
+Module Import Theory.
+Section Theory.
+
+Lemma ret_morph (M N : monad) (η : M ≈> N) :
+  forall a, η a \o Ret = Ret.
+Proof. case: η => cpmm; by case. Qed.
```
Comment (anton-trunov) [inline monad.v:38]: Are you aware that this proof makes the project depend on an axiom from mathcomp-analysis?

```
boolp.propositional_extensionality : forall [P Q : Prop], P <-> Q -> P = Q

boolp.propositional_extensionality is not universe polymorphic
Arguments boolp.propositional_extensionality [P Q]%type_scope _
Expands to: Constant mathcomp.analysis.boolp.propositional_extensionality
```

If we are ok with this then we should document it explicitly both locally (for the module) and in the README file.

All the proofs of the rest of the lemmas in this file depend on the axiom directly or indirectly.

Comment (anton-trunov) [reply monad.v:38]: Sorry, it's not this proof precisely -- it only depends on it transitively via the monae library. The definition of `monad` already uses it.

File: monad.v [hunk 6]
```diff
@@ -0,0 +1,99 @@
+From mathcomp Require Import ssreflect ssrfun eqtype.
+From monae Require Import hierarchy monad_lib.
+
+Local Open Scope monae_scope.
+
+Module MonadMorphism.
+
+Record mixin_of (M N : monad) (η : M ~> N) := Mixin {
+  _ : forall a, η a \o Ret = Ret;
```
[the remark this answers is not in the document]
Comment (eupp) [reply monad.v:9]: Giving the ugly truth about axioms in `monae` how critical is that? 
If we'll stick with `monae` for a while, we can formulate the laws in a similar style for now.

[the remark this answers is not in the document]
Comment (anton-trunov) [reply monad.v:9]: Sure, let's do that :)
